US06800651B2
N-(1-(4-Bromophenyl)ethyl)-N-(2,2,2-trifluroethanesulfonyl)pyrid-3-ylmethylamine
A solution of N-(1-(4-bromophenyl)ethyl)pyrid-3-ylmethylamine (630 mg, 2.16 mmol) and 4-(dimethylamino)pyridine (263 mg, 2.16 mmol) in 18 ml of dichloromethane was treated with 2,2,2-trifluoroethylsulfonyl chloride (420 mg, 2.3 mmol) with stirring for 15 minutes at room temperature. The solution was concentrated to approximately 2 ml and directly purified by radial chromatography on a 1 micron silica plate, eluting with 3% methanol/dichloromethane. The fractions were concentrated to afford the title compound. 1H NMR: 8.52 (bs,1H), 8.42 (bs,1H), (d,1H,J=8 Hz), 7.45 (d,2H,J=8 Hz), 7.22 (d,2H,J=8 Hz), 5.25 (q,1H,J=8 Hz), 4.38 (q,2H,ABX), 3.6 (q,2H,J=12 Hz), 1.68 (d,3H,J=8 Hz). MS calcd. 437.3; MS (M+1),(M+2), 438.0,439.0.

reactant | N-(1-(4-bromophenyl)ethyl)pyrid-3-ylmethylamine | 2.16 mmol, 630 mg | BrC1=CC=C(C=C1)C(C)NCC=1C=NC=CC1 | C14H15BrN2
reactant | 2,2,2-trifluoroethylsulfonyl chloride | 2.3 mmol, 420 mg | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
catalyst | 4-(dimethylamino)pyridine | 2.16 mmol, 263 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | N-(1-(4-Bromophenyl)ethyl)-N-(2,2,2-trifluroethanesulfonyl)pyrid-3-ylmethylamine | BrC1=CC=C(C=C1)C(C)N(S(=O)(=O)CC(F)(F)F)CC=1C=NC=CC1 | C16H16BrF3N2O2S
